US06288061B1
Ethyl 3-(4-dimethylaminophenyl)-2-hydroxyimino-3-oxopropionate (3.8 g) and 4-nitrobenzylamine (2.8 g) were reacted and treated in the same manner as in Starting Material Synthetic Example 1 to give ethyl 5-(4-dimethylaminophenyl)-2-(4-nitrophenyl)-imidazole-4-carboxylate (1.8 g), melting point 240-242° C.

reactant | Ethyl 3-(4-dimethylaminophenyl)-2-hydroxyimino-3-oxopropionate | 3.8 g | CN(C1=CC=C(C=C1)C(C(C(=O)OCC)=NO)=O)C | C13H16N2O4
reactant | 4-nitrobenzylamine | 2.8 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
product | ethyl 5-(4-dimethylaminophenyl)-2-(4-nitrophenyl)-imidazole-4-carboxylate | 1.8 g | CN(C1=CC=C(C=C1)C1=C(N=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCC)C | C20H20N4O4
